US07649011B2
To a solution of the compound 2-[2-(2-Methyl-3-phenyl-allylamino)-ethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (prepared from racemic proline according to the scheme1), 0.6 g (2 mmol) and 3,4,5-trimethoxy benzoic acid 0.513 g (2.4 mmol) in dry dichloromethane 10 ml, triethyl amine 0.2 ml was added and stirred at room temperature for 20 min. Then was added O-(benzotriazole-1-yl)-N,N,N′,N′-tetramethyl uranium tetrafluoroborate 1.3 g (4 mmol) at 0° C. The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with DCM and was washed with 10% NaHCO3 solution, water and brine, dried, concentrated and subjected to column chromatography silica gel using CHCl3/MeOH as eluent to obtain 1 g of 2-{2-[(2-Methyl-3-phenyl-allyl)-3,4,5-trimethoxy-benzoyl)-amino]-ethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 2-(2-Methyl-3-phenyl-allylamino)-ethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)CCNCC(=CC1=CC=CC=C1)C | C21H32N2O2
reactant | racemic proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 3,4,5-trimethoxy benzoic acid | 2.4 mmol, 0.513 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethyl amine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
